US06649609B2
1-Acetyl-4-(3-nitrobenzyl)-piperazine (6m2).
To a solution of 1-acetylpiperazine (5.0 g; 39.0 mmol) in THF (50 ml) was added triethylamine (5.6 ml; 39.0 mmol) and 3-nitrobenzylbromide (8.4 g; 39.0 mmol). The mixture was stirred at ambient temperature for 1 hour and the solvent was removed by evaporation. The residue was partitioned between water and ethyl acetate. The organic phase was dried over sodium sulphate and evaporated under reduced pressure to leave 6m2, quantitatively.

reactant | 1-acetylpiperazine | 39.0 mmol, 5.0 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | triethylamine | 39.0 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzylbromide | 39.0 mmol, 8.4 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-Acetyl-4-(3-nitrobenzyl)-piperazine | C(C)(=O)N1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-] | C13H17N3O3
